US09227985B2
(1R)-1-[(4S)-7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]ethane-1,2-diol
(4S)-7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-2-yl-2-vinyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine (40 mg, 0.1 mmol) was dissolved in tert-butyl alcohol (4 mL) and water (4 mL). To the resulting solution, the mixture of A-D mixβ (300 mg, 0.7 mmol) [Aldrich, cat. #392766] was added at room temperature. The resulting mixture was stirred overnight. Saturated aqueous sodium sulfite (2 mL) was added and the suspension was stirred for 15 min at room temperature. The mixture was then extracted with dichloromethane. The organic extracts were combined, washed with brine, dried over sodium sulfate, filtered, and concentrated. Purification by preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% ammonium hydroxide, at flow rate of 60 mL/min) afforded the desired product (0.021 g, 50%). LCMS for C21H21O4N4 (M+H)+: calculated m/z=393.2. found 393.2.

reactant | (4S)-7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-2-yl-2-vinyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 0.1 mmol, 40 mg | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)C=C)C | C21H18N4O2
reactant | sodium sulfite | 2 mL | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl alcohol | 4 mL | C(C)(C)(C)O | C4H10O
solvent | water | 4 mL | O | H2O
product | (1R)-1-[(4S)-7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]ethane-1,2-diol | 0.021 g, 50% | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)[C@H](CO)O)C | C21H20N4O4
